US04337198
(c) 3-(4-chloro-N-methyl-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester
A solution of 3.1 g 3-(4-chloro-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester in 15 ml absolute hexamethylphosphorotriamide is treated portionwise with 0.3 g sodium hydride. The reaction mixture is stirred at room temperature for 1 hour and then treated dropwise with 2.8 g methyl iodide, and the temperature is maintained under 20° C. After the reaction mixture has been stirred for 1 hour at room temperature 10 ml water are added dropwise. The mixture is extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and evaporated. The residue is recrystallised from ethyl acetate to give the heading compound, m.p. 111°-112°.

reactant | 3-(4-chloro-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester | 3.1 g | COC(=O)C1=NC=CN=C1NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H9ClN4O4
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | methyl iodide | 2.8 g | CI | CH3I
reactant | water | 10 ml | O | H2O
solvent | hexamethylphosphorotriamide | 15 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 3-(4-chloro-N-methyl-2-nitrophenylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1N(C)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C13H11ClN4O4
